US05684034
A solution of 294 mg (1 mmol) of 4-hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide was treated with 40 mg mmol) of 60% NaH/mineral oil and after 1 hour, 0.15 mL (1 mmol) of ethyl 4-bromobutyrate was added. The mixture was stirred for 2 hours, diluted with water and extracted with EtOAc. The EtOAc solution was washed with NaCl solution, dried (MgSO4), and concentrated at reduced pressure. The residue was crystallized from MeOH/hexane to give a total of 235 mg (58% yield) of 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]butanoic acid ethyl ester, mp, 115°-116° C.

reactant | 4-hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 1 mmol, 294 mg | OC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C)CC(=O)N | C18H18N2O2
reactant | NaH | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 1 mmol, 0.15 mL | BrCCCC(=O)OCC | C6H11BrO2
solvent | water | O | H2O
product | 4-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]butanoic acid ethyl ester | 235 mg, 58% yield | C(C)OC(CCCOC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C)CC(=O)N)=O | C24H28N2O4
